US07919519B2
9-Benzyl-9-bora-bicyclo[3.3.1]nonane (0.5M solution in THF, 12727 μL, 6363 μmol) was added to a mixture of 5-iodopyridin-2-amine (700 mg, 3182 μmol), potassium phosphate (2026 mg, 9545 μmol), Pd2 dba3 (58 mg, 64 μmol), and X-Phos (61 mg, 127 μmol) suspended in H2O (1 mL) in a sealable reaction vial. The vial was flushed with argon gas and then sealed and heated (microwave) at 120° C. for 30 min. The crude mixture was diluted with EtOAc, and the resulting solution was sequentially washed with 1M NaOH and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was taken up in MeOH (5 mL), concentrated aqueous HCl (0.30 mL) was added, and the resulting solution was stirred 10 min. Solid NaOH (120 mg) was then added, and the resulting solution was concentrated onto silica gel. Chromatographic purification of the product (ISCO, 12 g, 0-10% MeOH/CH2Cl2) furnished 5-benzylpyridin-2-amine as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.95 (s, 1H), 7.28 (t, J=7.5 Hz, 2H), 7.23 (d, J=11.0 Hz, 2H), 7.17 (t, J=8.5 Hz, 2H), 6.44 (d, J=8.5 Hz, 1H), 4.34 (s, 2H), 3.80-3.86 (m, 2H).

reactant | 9-Benzyl-9-bora-bicyclo[3.3.1]nonane | 6363 μmol, 0.5M, 12727 μL | C(C1=CC=CC=C1)B1C2CCCC1CCC2 | C15H21B
reactant | 5-iodopyridin-2-amine | 3182 μmol, 700 mg | IC=1C=CC(=NC1)N | C5H5IN2
reactant | potassium phosphate | 9545 μmol, 2026 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | X-Phos | 127 μmol, 61 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | H2O | 1 mL | O | H2O
catalyst | Pd2 dba3 | 64 μmol, 58 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-benzylpyridin-2-amine | C(C1=CC=CC=C1)C=1C=CC(=NC1)N | C12H12N2
